US09260435B2
tert-Butyl {1-[4-(6-bromo-8-methoxy-3-phenylimidazo[1,2-a]pyrazin-2-yl)phenyl]cyclobutyl}carbamate
A mixture of crude tert-butyl (1-{4-[bromo(phenyl)acetyl]phenyl}cyclobutyl)carbamate [Int-1-A] (203 mg, 0.38 mmol, 1.0 eq), 5-bromo-3-methoxypyrazin-2-amine (74.6 mg, 0.38 mmol, 1 eq.; Jiang, B. et al. Bioorg. Med. Chem. (2001), 9, 1149-1154.) and diisopropylethylamine (0.064 mL, 0.38 mmol, 1.0 eq) in 2.3 mL butyronitril was heated to 120° C. for 17 hours and to 125° C. for 6 h. The reaction mixture was concentrated in vacuo. The crude mixture was purified via preparative HPLC under basic conditions (column: Waters X-Bridge, eluent: ACN/water (15/85)→ACN/water 55/45) to deliver 9 mg (4%) of the title compound.

reactant | tert-butyl (1-{4-[bromo(phenyl)acetyl]phenyl}cyclobutyl)carbamate | 0.38 mmol, 203 mg, 1.0 eq | BrC(C(=O)C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C23H26BrNO3
reactant | 5-bromo-3-methoxypyrazin-2-amine | 0.38 mmol, 74.6 mg, 1 eq. | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | diisopropylethylamine | 0.38 mmol, 0.064 mL, 1.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | butyronitril | 2.3 mL | C(CCC)#N | C4H7N
product | tert-Butyl {1-[4-(6-bromo-8-methoxy-3-phenylimidazo[1,2-a]pyrazin-2-yl)phenyl]cyclobutyl}carbamate | BrC=1N=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(OC(C)(C)C)=O)C2=CC=CC=C2)OC | C28H29BrN4O3
